US07981903B2
The residue obtained from concentration of the filtrates generated from the synthesis of 4-chloro-2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide above were dissolved in tetrahydrofuran (10 mL) and 2.0M methyl amine in THF (5 mL) was added. The resulting solution was stirred for 12 hours and then concentrated to a residue under reduced pressure. The solids were dissolved in 1,4-dioxane (8 mL) and added to a microwave vial with 2.0N sodium hydroxide (8 mL). The mixture was maintained with rapid stirring under microwave irradiation at 120° C. for 8 minutes, cooled, poured into ethyl acetate/tetrahydrofuran/saturated sodium bicarbonate, and the organic layer was dried over sodium sulfate, taken to a residue under reduced pressure, and purified by chromatography on SiO2 to afford 4-chloro-2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide (0.078 g); 1H NMR (400 MHz, DMSO-d6) δ ppm 11.31 (s, 1H), 10.53 (s, 1H), 8.62 (d, J=2.57 Hz, 1H), 8.49-8.56 (m, 2H), 7.67 (s, 1H), 7.05 (dd, J=10.26, 1.83 Hz, 1H), 6.96-7.00 (m, 1H), 6.95 (s, 1H), 6.21-6.28 (m, 1H), 4.13 (t, J=8.43 Hz, 2H), 3.76 (s, 3H), 3.13 (s, 2H), 3.09 (t, J=8.62 Hz, 2H), 2.80 (d, J=4.77 Hz, 3H), 2.21 (s, 6H). ESIMS (M+H)+=567.

reactant | 4-chloro-2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | ClC1=CC(=C(C(=O)N)C(=C1)F)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(CN(C)C)=O)OC)=NC=C2 | C26H26ClFN8O3
reactant | methyl amine | 2.0M | CN | CH5N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.078 g | ClC1=CC(=C(C(=O)NC)C(=C1)F)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(CN(C)C)=O)OC)=NC=C2 | C27H28ClFN8O3
